US04661510
2-Amino-2-(4-hydroxybenzyl)penta-3,4-dienoic acid
To 1.33 g of 2-(benzoylamino)-2-(4-benzoyloxybenzyl)penta-3,4-dienoic acid methyl ester in 5 ml of dry methylene chloride was added 9 ml of 1.0M solution of Meerwein's reagent triethyloxonium tetrafluoroborate at room temperature with stirring and under argon. The reaction was left at room temperature for five (5) days with stirring under argon. The reaction mixture was then concentrated under vacuum and the residue was taken in 10 ml of tetrahydrofuran and 5 ml of 5% acetic acid and left overnight at room temperature with stirring under argon. The resulting reaction mixture was then diluted with 50 ml of ether and extracted 3 times with 2% hydrochloric acid (15 ml). The aqueous fractions were combined and the pH adjusted to 7.5 in a two-phase system containing methylene chloride. The aqueous extraction was further extracted with 3×30 ml of methylene chloride. The organic fractions were pooled, dried over anhydrous magnesium sulfate, and concentrated to give a residue which was then taken up in 15 ml of methanol and 10 ml of a 2.0N sodium hydroxide solution and left stirring overnight under argon. This mixture was then diluted with 30 ml of ether and extracted with water (3×15 ml). The pH of the aqueous layer was adjusted to 2.5 and the sample desalted by passing the the aqueous solution through an ion exchange column (BioRad Ag 50w×8), eluting with 20% pyridine-water. Appropriate eluant fractions were concentrated under vacuum and the residue taken up in water, the pH adjusted to the pI of tyrosine and absolute ethyl alcohol added. Resulting crystals of the title compound were collected and characterized as follows: mp 270°-275° C. (dec), IR (KBr); 1958 cm-1 (C=C=C), 1HNMR; (delta D2O); 3.05 (AB, 2H, --CH2--), 5.0 (d, 2H, CH2 =C), 5.5 ppm (dd, 1H, CH=C), MH+ 220.

reactant | 2-(benzoylamino)-2-(4-benzoyloxybenzyl)penta-3,4-dienoic acid methyl ester | 1.33 g | COC(C(C=C=C)(CC1=CC=C(C=C1)OC(C1=CC=CC=C1)=O)NC(C1=CC=CC=C1)=O)=O | C27H23NO5
reactant | sodium hydroxide | 2.0N | [OH-].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | methanol | 15 ml | CO | CH4O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-Amino-2-(4-hydroxybenzyl)penta-3,4-dienoic acid | NC(C(=O)O)(C=C=C)CC1=CC=C(C=C1)O | C12H13NO3
